US08686142B2
Intermediate 2: 3-Cyclopentyl-2-methoxy-3-oxo-propionic acid methyl ester
The title compound was prepared using a method analogous to that described in Tetrahedron 1998, 44, 1603-1607: To a suspension of iodosobenzene diacetate (5.2 g, 16.3 mmol) in MeOH (40 mL) was added BF3.0Et2 (2.1 mL, 16.3 mmol). The resulting mixture was added to 3-cyclopentyl-3-oxo-propionic acid ethyl ester (3.0 g, 16.3 mmol) and stirred at rt overnight. The mixture was concentrated to half the total volume, quenched with satd. aq. NaHCO3, and extracted with CHCl3 (2×). The combined organic layers were dried and concentrated and the crude residue purified (EtOAc/hexanes) to yield a colorless oil (1.5 g, 43%). 1H NMR (MeOD): 4.4 (s, 1H), 3.8 (s, 3H), 3.5 (s, 3H), 3.3-3.2 (m, 1H), 1.9-1.5 (m, 8H).

reactant | iodosobenzene diacetate | 16.3 mmol, 5.2 g | C(C)(=O)O.C(C)(=O)O.I(=O)C1=CC=CC=C1
reactant | BF3 | B(F)(F)F | BF3
reactant | 3-cyclopentyl-3-oxo-propionic acid ethyl ester | 16.3 mmol, 3.0 g | C(C)OC(CC(=O)C1CCCC1)=O | C10H16O3
solvent | MeOH | 40 mL | CO | CH4O
product | 3-Cyclopentyl-2-methoxy-3-oxo-propionic acid methyl ester | COC(C(C(=O)C1CCCC1)OC)=O | C10H16O4
